* OVERALL BEST CANDIDATE: 00_Phase_3_12V_to_230V_Inverter_Step_Up_Boost_g1_cand3_b10
* FITNESS SCORE: 0.5183
*
* Generated: 2026-06-05T19:02:10
* Constraint: Phase 3: 12V to 230V Inverter Step-Up (Boost)
*   vin_min = 11
*   vin_max = 15
*   vout_target = 230
*   efficiency_target = 0.93
*   power_in = 400
* Candidate: 3 of 12
* Grouped name: g1_cand3
*
* 15V to 230V 2-phase boost, 400W
Vin in 0 15
L1 in sw1 10u
M1 sw1 gate1 0 0 NMOS W=1 L=1
D1 sw1 out DIODE
L2 in sw2 10u
M2 sw2 gate2 0 0 NMOS W=1 L=1
D2 sw2 out DIODE
C1 out 0 100u
Rload out 0 132
Vgate1 gate1 0 PULSE(0 12 0 1n 1n 9.35u 10u)
Vgate2 gate2 0 PULSE(0 12 5u 1n 1n 9.35u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
